US07691902B2
3-Bromobenzenesulfonamide (470 mg, 2.0 mmol) was dissolved in pyridine (1 mL). To this solution was added DMAP (7.3 mg, 0.060 mmol) and then acetic anhydride (570 μL, 6.0 mmol). The reaction was stirred for 3 h at room temperature during which time the reaction changed from a yellow solution to a clear solution. The solution was diluted with ethyl acetate, and then washed with aqueous NH4Cl solution (×3) and water. The organic layer was dried over MgSO4 and concentrated. The resulting oil was triturated with hexanes and the precipitate was collected by filtration to obtain N-(3-bromophenylsulfonyl)-acetamide as a shiny white solid (280 mg, 51%). 1H NMR (400 MHz, DMSO-d6) δ 12.43 (s, 1H), 8.01 (t, J=1.8 Hz, 1H), 7.96-7.90 (m, 2H), 7.61 (t, J=8.0 Hz, 1H), 1.95 (s, 3H); HPLC ret. time 1.06 min; ESI-MS 278.1 m/z (MH+).

reactant | 3-Bromobenzenesulfonamide | 2.0 mmol, 470 mg | BrC=1C=C(C=CC1)S(=O)(=O)N | C6H6BrNO2S
reactant | acetic anhydride | 6.0 mmol, 570 μL | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
catalyst | DMAP | 0.060 mmol, 7.3 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(3-bromophenylsulfonyl)-acetamide | 280 mg, 51% | BrC=1C=C(C=CC1)S(=O)(=O)NC(C)=O | C8H8BrNO3S
